Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:13].[C:2](=[N:3][C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:11])[H:12],93.69771594104341
[C:1]([C:4]([C:2](=[O:3])[H:11])([H:13])[H:14])([H:8])([H:9])[H:10].[O:5]=[C:6]([O:7][H:12])[H:15]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([O:5][C:6](=[O:7])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],53.51621078130402
[C:1]([C:2]1([C:5]#[C:6][H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@:2]12[C@:3]([H:11])([C:4]1([H:12])[H:13])[C:5]2=[C:6]([H:10])[H:14])([H:7])([H:8])[H:9],81.8328009928098
[N:1]([C:2](=[O+:3][C-:4]([H:10])[H:11])[H:9])([C:5]([C:6]#[N:7])([H:12])[H:13])[H:8]>>[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8],12.221842617499789
[C:1]([C@@:2]([C:3](=[C:4])[H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3]#[C:4][H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],0.10807627413639409
[C:1]([N:2]=[C:5]=[O:6])([H:7])([H:8])[H:9].[C:3](=[O:4])([H:10])[H:11]>>[C:1]([N:2]([C:3](=[O:4])[H:10])[C:5](=[O:6])[H:11])([H:7])([H:8])[H:9],38.08596237778511
[H:6][H:7].[O:1]=[C:2]([C:3]([C:4]#[N:5])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([C:4]#[N:5])([H:9])[H:10])([H:7])[H:8])[H:6],72.77003294963819
[C:1]([C-:2]([N+:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]([N:3]([H:10])[H:11])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8],22.562250133619415
[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7]>>[O:1]=[C:2]([C:3](=[C:4]=[C:5]([C:6]#[N:7])[H:10])[H:9])[H:8],80.7138099856114
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([O+:5]=[C-:4][C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],100.60501450291201
[O:1]([C:2]([C:3]([C@@:4]1([C:7][H:15])[C:5]([H:12])([H:13])[O:6]1)([H:10])[H:11])([H:9])[H:14])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]2([C:5]([H:12])([H:13])[O:6]2)[C:7]1([H:14])[H:15])[H:8],3.6044810433488976
[C:1]([O:2][C:3]([O:5][C-:4]=[O+:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4](=[O:5])[O:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],35.323338169564416
[C:1]([C-:2]=[O+:3][C:4](=[O:5])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[H:9])([H:6])([H:7])[H:8],1.0718492225555067
[N:1]#[C:2][C:3]([O:4][C:6]1=[N:7][C:5]1([H:10])[H:11])([H:8])[H:9]>>[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9],44.884892699621204
[C:1](=[N+:2]([C:3]([N-:4][H:11])([H:8])[H:10])[C:5](=[O:6])[H:12])([H:7])[H:9]>>[C:1]([N:2](/[C:3](=[N:4]/[H:11])[H:10])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9],17.482244235255905
[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:6]=[N:7][C@:4]([O:5][H:11])([H:14])[C:3]1([H:12])[H:13])([H:8])([H:9])[H:10],82.4373900159667
[C:1]([C:2]1=[C:3]([H:11])/[C:4](=[N:5]/[H:12])[O:6][C:7]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:7]=[O+:6][C:4]([N-:5][H:12])=[C:3]1[H:11])([H:8])([H:9])[H:10].[H:13][H:14],75.14315030894291
[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]([C:4]1=[C:6]=[N+:7]([H:14])[N-:5]1)[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],127.548690886985
[C:1](=[C:2]=[C:3]1[C:4]([H:9])=[C:5]=[C:6]([H:11])[O:7]1)([H:8])[H:10]>>[C:1](#[C:2][c:3]1[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[o:7]1)[H:8],81.4992034826949
[C:1](/[N:2]=[C:3](/[O:4][C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[N:2]=[C:3](/[O:4][H:16])[H:11])([H:8])([H:9])[H:10].[C:5]([C:6](=[O:7])[H:14])([H:12])([H:13])[H:15],59.2971894723137
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5]#[C:6][H:16])([H:7])([H:8])[H:9]>>[C-:2]([C:3]([H:10])([H:11])[H:12])=[C:5]=[C+:6][H:16].[C:1]([C:4]([H:13])([H:14])[H:15])([H:7])([H:8])[H:9],123.885763194009
[C:1]([C:2]1=[C:7]=[O+:6][C:4]([N-:5][H:12])=[C:3]1[H:11])([H:8])([H:9])[H:10].[H:13][H:14]>>[C:1]([C:2]1=[C:3]([H:11])/[C:4](=[N:5]/[H:12])[O:6][C:7]1([H:13])[H:14])([H:8])([H:9])[H:10],7.3579752370379055
[O:1]1[C@:2]([C:3]([O:4]/[C:5](=[N:6]\[H:8])[H:12])([H:10])[H:11])([H:9])[C:7]1([H:13])[H:14]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])=[N:6][C:7]1([H:13])[H:14])[H:8],52.35715268114819
[C:1]([N:2]([C:3]([N:4]([O-:6])[H:12])=[C+:5][C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2](/[C:3](=[N:4]\[H:12])[C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10],4.831468988303996
[N:1]([C:2](=[O:3])[O:4]/[C:5](=[N:6]/[H:10])[H:9])([H:7])[H:8]>>[N:1](=[C:2]=[O:3])[H:8].[O:4](/[C:5](=[N:6]/[H:10])[H:9])[H:7],40.716840230614096
